US07645881B2
To a solution of 3-amino-5-ethyl-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylic acid (0.16 g, 0.63 mmol) in a mixture of dichloroethane (8 mL) and DMF (2 mL) was added PS-carbodiimide (1.0 g, 1.26 mmol). The mixture was shaken for 15 min at room temperature, followed by the addition of 5-phenyltetrazole (0.042 g, 0.32 mmol). Then, the mixture was shaken at 80° C. overnight. The resin was then removed by filtration and washed with hot chloroform (2×5 mL). The filtrate was evaporated in vacuum to dryness and purified by chromatography (silica gel, dichloromethane/ethyl acetate, 9/1) to furnish the product 5-ethyl-4,6-dimethyl-2-(5-phenyl-[1,3,4]oxadiazol-2-yl)-thieno[2,3-b]pyridin-3-yl amine (0.063 g, 56%).

reactant | 3-amino-5-ethyl-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylic acid | 0.63 mmol, 0.16 g | NC1=C(SC2=NC(=C(C(=C21)C)CC)C)C(=O)O | C12H14N2O2S
reactant | carbodiimide | 1.26 mmol, 1.0 g | N=C=N | CH2N2
reactant | 5-phenyltetrazole | 0.32 mmol, 0.042 g | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-ethyl-4,6-dimethyl-2-(5-phenyl-[1,3,4]oxadiazol-2-yl)-thieno[2,3-b]pyridin-3-yl amine | 0.063 g, 56% | C(C)C=1C(=C2C(=NC1C)SC(=C2N)C=2OC(=NN2)C2=CC=CC=C2)C | C19H18N4OS
